US05494928
A solution of 1.85 g of ethyl 5-fluoro-6-trifluoromethylindole-2-carboxylate in 60 ml of ethanol was treated with 30 ml of 2N sodium hydroxide solution and stirred at room temperature for 1 hour. The alcohol was evaporated and the solution was adjusted to pH 1 with 2N hydrochloric acid. The separated crystals were isolated, washed with water and dried. There were obtained 1.5 g (90%) of 5-fluoro-6-trifluoromethylindole-2-carboxylic acid as brown crystals with m.p. 178°-180°.

reactant | ethyl 5-fluoro-6-trifluoromethylindole-2-carboxylate | 1.85 g | FC=1C=C2C=C(NC2=CC1C(F)(F)F)C(=O)OCC | C12H9F4NO2
reactant | sodium hydroxide | 2N, 30 ml | [OH-].[Na+]
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 5-fluoro-6-trifluoromethylindole-2-carboxylic acid | 1.5 g, 90% | FC=1C=C2C=C(NC2=CC1C(F)(F)F)C(=O)O | C10H5F4NO2
